US06573289B1
Production of 1-(6-Hydroxymethylnaphthalen-2-yl)-1-(1H-imidazol-4-yl)2-methyl-1-propanol
1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (5.0 g) was dissolved in THF (100 ml), and was cooled to −70° C. To the solution was slowly added a solution of n-butyllithium in hexane (1.6 M; 11.7 ml), and the mixture was stirred at −70° C. for 20 min. To the mixture was added dropwise a solution of 4-formylmorpholine (1.96 g) in THF (10 ml), and the mixture was stirred for 30 min. To the mixture was added water, the mixture was extracted with ethyl acetate, washed with saturated sodium chloride solution and dried. The solvent was distilled off and the residue was purified by column chromatography (eluent, hexane:THF=4:1→2:1), followed by recrystallization from hexane-THF (6:1) to give the titled compound (2.69 g) as a pale yellow powder.

reactant | 1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 5.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-formylmorpholine | 1.96 g | C(=O)N1CCOCC1 | C5H9NO2
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 11.7 ml | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(6-Hydroxymethylnaphthalen-2-yl)-1-(1H-imidazol-4-yl)2-methyl-1-propanol | 2.69 g | OCC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C18H20N2O2
